US08110577B2
Potassium tert-butoxide (14.6 g, 0.13 mol) followed by 2-(5-cyanopentyl)malonic acid di-tert-butyl ester (2021050) (32.3 g, 0.1 mol) was added portionwise to stirred tetrahydrofuran (150 mL). 5-Chloro-3-methyl-1,2,4-thiadiazole (2009380) (13.5 g, 0.10 mol) was then added to the slurry and the mixture was heated at reflux overnight before being quenched with water (150 mL) and extracted with dichloromethane (3×200 mL). The combined organic fractions were dried (MgSO4) and the solvent was removed under reduced pressure. The crude product was purified by flash chromatography (6:1 hexane/ethyl acetate) to afford 2-(5-cyanopentyl)-2-(3-methyl[1,2,4]thiadiazol-5-yl)malonic acid di-tert-butyl ester (2021051) (17.2 g, 42%) as a yellow oil.

reactant | Potassium tert-butoxide | 0.13 mol, 14.6 g | CC(C)([O-])C.[K+]
reactant | 2-(5-cyanopentyl)malonic acid di-tert-butyl ester | 0.1 mol, 32.3 g | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)CCCCCC#N)=O | C17H29NO4
reactant | 5-Chloro-3-methyl-1,2,4-thiadiazole | 0.10 mol, 13.5 g | ClC1=NC(=NS1)C | C3H3ClN2S
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-(5-cyanopentyl)-2-(3-methyl[1,2,4]thiadiazol-5-yl)malonic acid di-tert-butyl ester | 17.2 g, 42% | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)(C1=NC(=NS1)C)CCCCCC#N)=O | C20H31N3O4S
